US04169097
2,3-Dihydro-6-methoxy-4-H-1-benzopyran-4-one O-(Ethylcarbamoyl)-oxime
A 42 g (0.22 mole) portion of 6-methoxy-4-chromanone oxime in 600 ml of benzene was refluxed until all water was removed via a Dean-Stark trap. The solution was treated with 1 ml of triethylamine, followed by the dropwise addition of 14 g (0.20 mole) of ethyl isocyanate at reflux. The reaction mixture was refluxed for 4 hrs., stored overnight at room temperature, and stripped of benzene under reduced pressure. The viscous residue was taken up in 250 ml of ether, refrigerated 6 hrs., and filtered. The cream colored solid was washed with 150 ml of ether and dried, m.p. 97°-98°. Yield: 44 g (83%).

reactant | 6-methoxy-4-chromanone oxime | COC=1C=C2C(CCOC2=CC1)=NO | C10H11NO3
reactant | water | O | H2O
reactant | ethyl isocyanate | 0.20 mole, 14 g | C(C)N=C=O | C3H5NO
solvent | benzene | 600 ml | C1=CC=CC=C1 | C6H6
solvent | ether | 250 ml | CCOCC | C4H10O
product | 2,3-Dihydro-6-methoxy-4-H-1-benzopyran-4-one O-(Ethylcarbamoyl)-oxime | C(C)NC(=O)ON=C1CCOC2=C1C=C(C=C2)OC | C13H16N2O4
